US04588722
A mixture of 1.64 parts of 2-methyl-1H-imidazole, 9.2 parts of N-[1-(2-chloroethyl)-4-piperidinyl]-1-(4-fluorophenylmethyl)-1H-benzimidazol-2-amine dihydrochloride, 6.4 parts of sodium carbonate and 135 parts of N,N-dimethylformamide was stirred overnight at 60° C. The reaction mixture was poured into water. The product was extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (96:4 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 2.6 parts (30% of 1-[(4-fluorophenyl)methyl]-N-[1-[2-(2-methyl-1H-imidazol-1-yl)ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine; mp. 170.5° C. (compound 20).

reactant | 2-methyl-1H-imidazole | CC=1NC=CN1 | C4H6N2
reactant | N-[1-(2-chloroethyl)-4-piperidinyl]-1-(4-fluorophenylmethyl)-1H-benzimidazol-2-amine dihydrochloride | Cl.Cl.ClCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[(4-fluorophenyl)methyl]-N-[1-[2-(2-methyl-1H-imidazol-1-yl)ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine | 30% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCN2C(=NC=C2)C | C25H29FN6
